US04298529
To a solution of ethyl 2-hydroxyimino-3,3-ethylenedioxybutyrate (syn isomer, 5 g) in dried ethyl acetate (20 ml) was added potassium carbonate (5.78 g), and dimethyl sulfate (3.96 ml) was added dropwise thereto at ambient temperature with stirring, and then the mixture was stirred for 2 hours at 43°-45° C. To the reaction mixture were added water (10 ml) and ethyl acetate (5 ml), and the mixture was stirred for 40 minutes at ambient temperature. The mixture was adjusted to pH 7.2 with 6 N hydrochloric acid and saturated with sodium chloride, and then ethyl acetate layer was separated. The remaining aqueous layer was further extracted with ethyl acetate (10 ml). The ethyl acetate layer and extract were combined together, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then filtered. The filtrate was evaporated to give ethyl 2-methoxyimino-3,3-ethylenedioxybutyrate (syn isomer), quantitatively.

reactant | ethyl 2-hydroxyimino-3,3-ethylenedioxybutyrate | 5 g | ON=C(C(=O)OCC)C1(C)OCCO1 | C8H13NO5
reactant | potassium carbonate | 5.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 3.96 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
product | ethyl 2-methoxyimino-3,3-ethylenedioxybutyrate | CON=C(C(=O)OCC)C1(C)OCCO1 | C9H15NO5
